US05622976
A mixture of 1-tert-butoxycarbonyl-4-(2-mesyloxyethyl)piperidine (1.20 g) and potassium phthalimide (0.80 g) in N,N-dimethylformamide (15 ml) was stirred at 40° C. for 2 hours. The mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, and dried over magnesium sulfate and evaporated in vacuo to give N-[2-[1-tert-butoxycarbonylpiperidin-4-yl]ethyl]phthalimide (1.12 g).

reactant | 1-tert-butoxycarbonyl-4-(2-mesyloxyethyl)piperidine | 1.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOS(=O)(=O)C | C13H25NO5S
reactant | potassium phthalimide | 0.80 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[2-[1-tert-butoxycarbonylpiperidin-4-yl]ethyl]phthalimide | 1.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C20H26N2O4
